US09023846B2
Step H: 2-(3-tert-Butyl-4-chloro-1-methyl-1H-pyrazol-5-yl)-6-(2-chlorophenyl)-4-methoxy-3H-imidazo[4,5-c]pyridine
A 2-L four neck round bottom flask equipped with mechanical stirrer, reflux condenser with nitrogen outlet, positive pressure nitrogen inlet and thermocouple was charged with N-(3-amino-6-(2-chlorophenyl)-2-methoxypyridin-4-yl)-3-tert-butyl-4-chloro-1-methyl-1H-pyrazole-5-carboxamide (156.2 g, 0.346 mol) and AcOH (glacial, 780 mL). The resulting mixture was heated to 90° C. for 2 h. The resulting mixture was then was cooled to 50° C., transferred to a one-neck round bottom flask and concentrated on a rotary evaporator (bath at 50° C.). The resulting orange pasty solid was dissolved in EtOAc (1.5 L) and added to a separatory funnel containing saturated aqueous sodium bicarbonate (2 L) and EtOAc (1.5 L). The pH of the aqueous was still acidic, and was adjusted with 50% wt/wt NaOH (˜10 mL) to pH 8-9, then back to neutral with aqueous HCl (2 M, 120 mL) to a final pH of 6-8. The turbid organic layer was separated and the aqueous layer extracted with EtOAc (2×500 mL). The combined turbid organic layers were warmed in a 50° C. bath with gentle stirring and within 1-2 min, a clear orange solution resulted. The warm organic layer was quickly washed with brine (500 mL), dried (MgSO4) with occasional warming throughout the drying process, filtered and the volatiles removed under reduced pressure. The resulting residue crystallized on standing and then redissolved with dichloromethane to yield a turbid mixture. The resulting concentrate was loaded onto BIOTAGE 150M (2.5 kg silica, prewetted with 4 L heptane) and eluted with heptane (4 L), 10% EtOAc in heptane (12 L), and finally 20% EtOAc in heptane (16 L), whereby fractions of suitable purity were collected and concentrated to yield the title compound.

reactant | N-(3-amino-6-(2-chlorophenyl)-2-methoxypyridin-4-yl)-3-tert-butyl-4-chloro-1-methyl-1H-pyrazole-5-carboxamide | 0.346 mol, 156.2 g | NC=1C(=NC(=CC1NC(=O)C1=C(C(=NN1C)C(C)(C)C)Cl)C1=C(C=CC=C1)Cl)OC | C21H23Cl2N5O2
solvent | AcOH | 780 mL | CC(=O)O | C2H4O2
product | 2-(3-tert-Butyl-4-chloro-1-methyl-1H-pyrazol-5-yl)-6-(2-chlorophenyl)-4-methoxy-3H-imidazo[4,5-c]pyridine | C(C)(C)(C)C1=NN(C(=C1Cl)C1=NC2=C(C(=NC(=C2)C2=C(C=CC=C2)Cl)OC)N1)C | C21H21Cl2N5O
